US09193723B2
5-(1-(tert-butoxycarbonyl)piperidin-4-yl)thiophene-2-carboxylic acid
In a 250 mL round bottom flask was mixed tert-butyl 4-(5-(ethoxycarbonyl)thiophen-2-yl)piperidine-1-carboxylate (5.00 g, 14.73 mmol) in tetrahydrofuran (50 ml). Aqueous 4N NaOH (38.41 ml, 73.6 mmol) solution was added along with some methanol (10 ml) to get a single phase solution. The mixture was stirred overnight at room temperature. The solvents were removed to give a white slurry that was diluted with water and adjusted to pH of 5 with 1N aqueous hydrochloric acid. Filtration provided the title compound.

reactant | tert-butyl 4-(5-(ethoxycarbonyl)thiophen-2-yl)piperidine-1-carboxylate | 14.73 mmol, 5.00 g | C(C)OC(=O)C1=CC=C(S1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H25NO4S
reactant | NaOH | 73.6 mmol, 4N, 38.41 ml | [OH-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-(1-(tert-butoxycarbonyl)piperidin-4-yl)thiophene-2-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(S1)C(=O)O | C15H21NO4S
